US04031225
10-[2-Hydroxy-3-(2,2,5,5-tetramethyl-1-pyrrolidinyl)-propoxy]-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one
20.0 g of a mixture of 10-(2,3-epoxypropoxy)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one and 10-(3-chloro-2-hydroxypropoxy)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one are boiled at reflux in 65 ml of 2,2,5,5-tetramethylpyrrolidine and 200 ml of methanol for 5 hours. The reaction mixture is evaporated to dryness and the residue is taken up in 600 ml of chloroform and 150 ml of 3N caustic soda solution. The organic solution is separated and is washed thrice with 3N caustic soda solution. After washing neutral with water, the solution is dried over sodium sulphate and concentrated by evaporation. The residue is chromatographed on 600 g of silica gel with a mixture of chloroform containing 5% methanol to give the title compound in free base form. (M.Pt. 104° - 107° from isopropanol).

reactant | 10-(2,3-epoxypropoxy)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | O1C(COC2=CC3=C(C(C4=C2SC=C4)=O)C=CC=C3)C1 | C16H12O3S
reactant | 10-(3-chloro-2-hydroxypropoxy)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | ClCC(COC1=CC2=C(C(C3=C1SC=C3)=O)C=CC=C2)O | C16H13ClO3S
reactant | methanol | 200 ml | CO | CH4O
reactant | 2,2,5,5-tetramethylpyrrolidine | 65 ml | CC1(NC(CC1)(C)C)C | C8H17N
product | 10-[2-Hydroxy-3-(2,2,5,5-tetramethyl-1-pyrrolidinyl)-propoxy]-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | OC(COC1=CC2=C(C(C3=C1SC=C3)=O)C=CC=C2)CN2C(CCC2(C)C)(C)C | C24H29NO3S
